US05510520
1.28 g (11.2 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine of α!D20 =-36.7° (c 4.1, H2O) and 1.00 g (11.1 mmol) of dl-threo-2,3-butanediol were added to 2 ml of ether and then heated/dissolved therein, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 2 ml of ether twice to obtain 1.00 g of (1R,2R)-(-)-1,2-cyclohexanediamine·(2R,3R)-(-)-2,3-butanediol. Physical properties of the product are as follows.

reactant | (1R,2R)-(-)-1,2-cyclohexanediamine | 11.2 mmol, 1.28 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | H2O | O | H2O
reactant | ether | 2 ml | CCOCC | C4H10O
product | (1R,2R)-(-)-1,2-cyclohexanediamine·(2R,3R)-(-)-2,3-butanediol | 1.00 g | [C@@H]1([C@@H](CCCC1)N)N.C[C@H]([C@@H](C)O)O | InChI=1S/C6H14N2.C4H10O2/c7-5-3-1-2-4-6(5)8;1-3(5)4(2)6/h5-6H,1-4,7-8H2;3-6H,1-2H3/t5-,6-;3-,4-/m11/s1
